US07348354B2
(4-Dimethylamino-4-phenylcyclohexylidene)acetonitrile (1.16 g, 4.8 mmole) was dissolved in methanol (30 ml). Nickel(II) chloride hexahydrate (2.28 g, 9.6 mmole) was added to this solution. NaBH4 (1.82 mg, 48 mmole) was then added in portions with stirring and ice water cooling. Once addition was complete, stirring was continued at RT for 1 h. The resultant black nickel boride was removed by suction filtration after addition of 2M hydrochloric acid (15 ml) and washed with 2M hydrochloric acid (3×10 ml). The hydrochloric, aqueous-methanolic solution was reduced to half its volume in order to remove the methanol. The remaining aqueous phase was extracted with ether (3×10 ml) to remove neutral substances. The aqueous phase was then alkalised by addition of conc. aqueous ammonia solution and again extracted with ether (3×20 ml). The combined extracts were washed with saturated NaCl-solution (30 ml), dried over Na2SO4 and then evaporated. The resultant crude product could be purified by column chromatography [silica gel 60 (100 g); MeOH (1000 ml)]. However, this did not result in separation of the diastereoisomers. [4-(2-Aminoethyl)-1-phenylcyclohexyl]dimethylamine was obtained as a colorless oil in a yield of 643 mg (54%).

reactant | (4-Dimethylamino-4-phenylcyclohexylidene)acetonitrile | 4.8 mmole, 1.16 g | CN(C1(CCC(CC1)=CC#N)C1=CC=CC=C1)C | C16H20N2
reactant | NaBH4 | 48 mmole, 1.82 mg | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | Nickel(II) chloride hexahydrate | 9.6 mmole, 2.28 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | [4-(2-Aminoethyl)-1-phenylcyclohexyl]dimethylamine | NCCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C16H26N2
